2180-11-30 09:50:00 Physician Attending Progress Note
Chief Complaint: seizures with status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   78 yo man with recent CEA, of note he had prior CEA on other side and
   had focal motor seizures after that procedure. Admitted with seizures,
   respiratory failure.  Very alert this AM.
   24 Hour Events:
 MULTI LUMEN - START [**2180-11-29**] 03:13 PM
 LUMBAR PUNCTURE - At [**2180-11-29**] 04:30 PM
 URINE CULTURE - At [**2180-11-29**] 05:37 PM
   Allergies:
   Lorazepam
   Hallucinations;
   Last dose of Antibiotics:
   Vancomycin - [**2180-11-29**] 02:30 PM
   Ampicillin - [**2180-11-29**] 07:44 PM
   Ceftriaxone - [**2180-11-30**] 12:11 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2180-11-30**] 12:10 AM
   Dilantin - [**2180-11-30**] 12:20 AM
   Other medications:
   chlorhex
   acyclovir
   sertrolin
   lipitor
   calcitriol
   prevacid
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: ventilated
   Neurologic: No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Daytime
   somnolence
   Flowsheet Data as of  [**2180-11-30**] 09:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.3
C (97.3
   HR: 76 (65 - 86) bpm
   BP: 112/52(68) {107/50(65) - 177/71(98)} mmHg
   RR: 10 (8 - 15) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    461 mL
                                                                    181 mL
   PO:
             TF:
   IVF:
                                                                    461 mL
                                                                    181 mL
   Blood products:
   Total out:
                                                                    720 mL
                                                                    200 mL
   Urine:
                                                                    720 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -259 mL
                                                                    -19 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 700) mL
   Vt (Spontaneous): 344 (344 - 344) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 20 cmH2O
   Plateau: 12 cmH2O
   Compliance: 78.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.47/40/227/28/5
   Ve: 6.6 L/min
   PaO2 / FiO2: 568
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Movement: Purposeful, Tone: Not assessed, lethargic,
   but arousable.
   Labs / Radiology
   10.8 g/dL
   110 K/uL
   134 mg/dL
   7.1 mg/dL
   28 mEq/L
   4.3 mEq/L
   48 mg/dL
   101 mEq/L
   140 mEq/L
   29.2 %
   6.6 K/uL
        [image002.jpg]
                             [**2180-11-29**]  05:03 PM
                             [**2180-11-29**]  05:56 PM
                             [**2180-11-29**]  11:35 PM
                             [**2180-11-30**]  03:42 AM
   WBC
   7.1
   6.6
   Hct
   30.6
   29.2
   Plt
   111
   110
   Cr
   6.7
   7.1
   TropT
   0.07
   0.08
   TCO2
   27
   30
   Glucose
   244
   134
   Other labs: PT / PTT / INR:13.6/36.9/1.2, CK / CKMB /
   Troponin-T:54//0.08, ALT / AST:60/46, Differential-Neuts:85.4 %,
   Lymph:10.1 %, Mono:3.1 %, Eos:1.2 %, Lactic Acid:1.1 mmol/L, Ca++:9.0
   mg/dL, Mg++:1.9 mg/dL, PO4:5.1 mg/dL
   Fluid analysis / Other labs: dilantin 7.8
   Assessment and Plan
 SEIZURE, WITH STATUS EPILEPTICUS:  No evidence of further seizure
   activity.  Unclear etiology.  No evidence of new CNS vascular event,
   atlhough MRI will be done to confirm.  LP not consistent with CNS
   infection, will stop antibiotics and await HSV PCR before stopping
   acyclovir.
 respiratory failure/AIRWAY, INABILITY TO PROTECT (RISK FOR
   ASPIRATION, ALTERED GAG, AIRWAY CLEARANCE, COUGH): Will attempt to
   extubated once MRI is completed.
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD): HD today
   HTN:  Meds held while sedated and relatively [**Name (NI) **].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2180-11-29**] 03:13 PM
   18 Gauge - [**2180-11-29**] 05:13 PM
   Comments: will remove fem line if able to get peripherals.
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2180-12-01 11:36:00 Physician Attending Progress Note
Chief Complaint: Seizure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Still alert w/o further obvious seaizures.
   24 Hour Events:
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: confusion
   Allergies:
   Lorazepam
   Hallucinations;
   Last dose of Antibiotics:
   Vancomycin - [**2180-11-29**] 02:30 PM
   Ampicillin - [**2180-11-29**] 07:44 PM
   Ceftriaxone - [**2180-11-30**] 12:11 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2180-11-30**] 03:30 PM
   Dilantin - [**2180-12-1**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Genitourinary: Dialysis
   Neurologic: disoriented
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2180-12-1**] 11:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.7
C (98.1
   HR: 90 (74 - 128) bpm
   BP: 141/55(77) {101/50(63) - 190/84(107)} mmHg
   RR: 15 (10 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    550 mL
                                                                    120 mL
   PO:
                  120 mL
   TF:
   IVF:
                                                                    350 mL
   Blood products:
   Total out:
                                                                  1,845 mL
                                                                    550 mL
   Urine:
                                                                    445 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,295 mL
                                                                   -430 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 1,091 (1,091 - 1,091) mL
   RR (Set): 10
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 14 cmH2O
   Plateau: 15 cmH2O
   SpO2: 99%
   ABG: ///30/
   Ve: 11.9 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: blind R
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), 1/6 sem
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, Movement: Purposeful, Tone: Not
   assessed
   Labs / Radiology
   11.0 g/dL
   99 K/uL
   103 mg/dL
   5.0 mg/dL
   30 mEq/L
   4.0 mEq/L
   23 mg/dL
   100 mEq/L
   140 mEq/L
   30.1 %
   6.6 K/uL
        [image002.jpg]
                             [**2180-11-29**]  05:03 PM
                             [**2180-11-29**]  05:56 PM
                             [**2180-11-29**]  11:35 PM
                             [**2180-11-30**]  03:42 AM
                             [**2180-12-1**]  04:22 AM
   WBC
   7.1
   6.6
   6.6
   Hct
   30.6
   29.2
   30.1
   Plt
   111
   110
   99
   Cr
   6.7
   7.1
   5.0
   TropT
   0.07
   0.08
   TCO2
   27
   30
   Glucose
   244
   134
   103
   Other labs: PT / PTT / INR:13.5/76.5/1.2, CK / CKMB /
   Troponin-T:54//0.08, ALT / AST:42/23, Alk Phos / T Bili:142/0.6,
   Differential-Neuts:85.4 %, Lymph:10.1 %, Mono:3.1 %, Eos:1.2 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.7 g/dL, LDH:159 IU/L, Ca++:9.2 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 HYPERTENSION, BENIGN
 SEIZURE, WITH STATUS EPILEPTICUS
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   No further sz. He is still disoriented, confabulating.  Neuro dx is
   tentatively PRESS - presumably unilateral due to hyperperfusion after
   CEA.  BP now in 140-150 range which seems appropriate for now. Holding
   on further antihypertensives.
   ICU Care
   Nutrition:
   Comments: full diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2180-11-29**] 03:13 PM
   18 Gauge - [**2180-11-29**] 05:13 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes